US08067440B2
A solution of N,N-Diallyl-4-methyl-benzenesulfonamide (251 mg, 1.0 mmol, 1.0 equiv), phosphonium catalyst (10) (30 mg, 0.025 mmol, 0.025 equiv) in CH2Cl2 (20 mL, 0.05 M) were heated under reflux for 3 h under argon. The mixture was concentrated under reduced pressure. The crude product was diluted with CH2Cl2 (1 ml) and the catalyst was precipitated with Et2O (10 mL). Filtration produced the phosphonium catalyst (10) in quantitative yield (85% purity). Evaporation of the filtrate afforded pure 1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole (99.5%). Second cycle: 1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole was obtained in 98% yield and the phosphonium catalyst (10) could be recovered in quantitative yield in 83% purity.

reactant | N,N-Diallyl-4-methyl-benzenesulfonamide | 1.0 mmol, 251 mg, 1.0 equiv | C(C=C)N(S(=O)(=O)C1=CC=C(C=C1)C)CC=C | C13H17NO2S
catalyst | phosphonium | 0.025 mmol, 30 mg, 0.025 equiv | [PH4+]
solvent | CH2Cl2 | 0.05 M, 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole | 99.5% | C1(=CC=C(C=C1)S(=O)(=O)N1CC=CC1)C | C11H13NO2S
